** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K10a: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 3.996868n 1.8
+ 4.016868n 0 6.003737n 0 6.023737n 1.8 8.020749n 1.8
+ 8.040749n 0 10.037762n 0 10.057762n 1.8 11.995327n 1.8
+ 12.015327n 0 13.952893n 0 13.972893n 1.8 15.964151n 1.8
+ 15.984151n 0 17.975409n 0 17.995409n 1.8 19.996369n 1.8
+ 20.016369n 0 22.017329n 0 22.037329n 1.8 23.998800n 1.8
+ 24.018800n 0 25.980271n 0 26.000271n 1.8 27.949216n 1.8
+ 27.969216n 0 29.918161n 0 29.938161n 1.8 31.926417n 1.8
+ 31.946417n 0 33.934672n 0 33.954672n 1.8 35.925470n 1.8
+ 35.945470n 0 37.916269n 0 37.936269n 1.8 39.921551n 1.8
+ 39.941551n 0 41.926833n 0 41.946833n 1.8 43.919109n 1.8
+ 43.939109n 0 45.911386n 0 45.931386n 1.8 47.894864n 1.8
+ 47.914864n 0 49.878342n 0 49.898342n 1.8 51.888994n 1.8
+ 51.908994n 0 53.899645n 0 53.919645n 1.8 55.892926n 1.8
+ 55.912926n 0 57.886206n 0 57.906206n 1.8 59.879520n 1.8
+ 59.899520n 0 61.872833n 0 61.892833n 1.8 63.874515n 1.8
+ 63.894515n 0 65.876196n 0 65.896196n 1.8 67.869150n 1.8
+ 67.889150n 0 69.862105n 0 69.882105n 1.8 71.867720n 1.8
+ 71.887720n 0 73.873336n 0 73.893336n 1.8 75.866033n 1.8
+ 75.886033n 0 77.858730n 0 77.878730n 1.8 79.884197n 1.8
+ 79.904197n 0 81.909664n 0 81.929664n 1.8 83.859445n 1.8
+ 83.879445n 0 85.809226n 0 85.829226n 1.8 87.824017n 1.8
+ 87.844017n 0 89.838808n 0 89.858808n 1.8 91.813254n 1.8
+ 91.833254n 0 93.787699n 0 93.807699n 1.8 95.769909n 1.8
+ 95.789909n 0 97.752119n 0 97.772119n 1.8 99.711300n 1.8
+ 99.731300n 0 101.670481n 0 101.690481n 1.8 103.685049n 1.8
+ 103.705049n 0 105.699618n 0 105.719618n 1.8 107.666033n 1.8
+ 107.686033n 0 109.632448n 0 109.652448n 1.8 111.612278n 1.8
+ 111.632278n 0 113.592108n 0 113.612108n 1.8 115.580909n 1.8
+ 115.600909n 0 117.569710n 0 117.589710n 1.8 119.579767n 1.8
+ 119.599767n 0 121.589823n 0 121.609823n 1.8 123.575293n 1.8
+ 123.595293n 0 125.560762n 0 125.580762n 1.8 127.558338n 1.8
+ 127.578338n 0 129.555914n 0 129.575914n 1.8 131.528468n 1.8
+ 131.548468n 0 133.501021n 0 133.521021n 1.8 135.477746n 1.8
+ 135.497746n 0 137.454470n 0 137.474470n 1.8 139.465488n 1.8
+ 139.485488n 0 141.476505n 0 141.496505n 1.8 143.445124n 1.8
+ 143.465124n 0 145.413743n 0 145.433743n 1.8 147.420127n 1.8
+ 147.440127n 0 149.426511n 0 149.446511n 1.8 151.426412n 1.8
+ 151.446412n 0 153.426312n 0 153.446312n 1.8 155.424438n 1.8
+ 155.444438n 0 157.422563n 0 157.442563n 1.8 159.392080n 1.8
+ 159.412080n 0 161.361597n 0 161.381597n 1.8 163.351954n 1.8
+ 163.371954n 0 165.342312n 0 165.362312n 1.8 167.330084n 1.8
+ 167.350084n 0 169.317855n 0 169.337855n 1.8 171.298915n 1.8
+ 171.318915n 0 173.279975n 0 173.299975n 1.8 175.311140n 1.8
+ 175.331140n 0 177.342304n 0 177.362304n 1.8 179.315428n 1.8
+ 179.335428n 0 181.288553n 0 181.308553n 1.8 183.267383n 1.8
+ 183.287383n 0 185.246213n 0 185.266213n 1.8 187.224249n 1.8
+ 187.244249n 0 189.202284n 0 189.222284n 1.8 191.170579n 1.8
+ 191.190579n 0 193.138873n 0 193.158873n 1.8 195.125491n 1.8
+ 195.145491n 0 197.112108n 0 197.132108n 1.8 199.106402n 1.8
+ 199.126402n 0 201.100697n 0 201.120697n 1.8 203.073468n 1.8
+ 203.093468n 0 205.046239n 0 205.066239n 1.8 206.993129n 1.8
+ 207.013129n 0 208.940019n 0 208.960019n 1.8 210.933924n 1.8
+ 210.953924n 0 212.927828n 0 212.947828n 1.8 214.921318n 1.8
+ 214.941318n 0 216.914807n 0 216.934807n 1.8 218.926297n 1.8
+ 218.946297n 0 220.937786n 0 220.957786n 1.8 222.926679n 1.8
+ 222.946679n 0 224.915572n 0 224.935572n 1.8 226.921121n 1.8
+ 226.941121n 0 228.926670n 0 228.946670n 1.8 230.946117n 1.8
+ 230.966117n 0 232.965565n 0 232.985565n 1.8 234.951507n 1.8
+ 234.971507n 0 236.937450n 0 236.957450n 1.8 238.943750n 1.8
+ 238.963750n 0 240.950050n 0 240.970050n 1.8 242.959614n 1.8
+ 242.979614n 0 244.969179n 0 244.989179n 1.8 246.964196n 1.8
+ 246.984196n 0 248.959214n 0 248.979214n 1.8 250.941858n 1.8
+ 250.961858n 0 252.924502n 0 252.944502n 1.8 254.911302n 1.8
+ 254.931302n 0 256.898103n 0 256.918103n 1.8 258.943592n 1.8
+ 258.963592n 0 260.989081n 0 261.009081n 1.8 263.020705n 1.8
+ 263.040705n 0 265.052328n 0 265.072328n 1.8 267.049836n 1.8
+ 267.069836n 0 269.047344n 0 269.067344n 1.8 271.088802n 1.8
+ 271.108802n 0 273.130261n 0 273.150261n 1.8 275.111586n 1.8
+ 275.131586n 0 277.092912n 0 277.112912n 1.8 279.096153n 1.8
+ 279.116153n 0 281.099395n 0 281.119395n 1.8 283.115596n 1.8
+ 283.135596n 0 285.131797n 0 285.151797n 1.8 287.130823n 1.8
+ 287.150823n 0 289.129849n 0 289.149849n 1.8 291.125435n 1.8
+ 291.145435n 0 293.121020n 0 293.141020n 1.8 295.093891n 1.8
+ 295.113891n 0 297.066762n 0 297.086762n 1.8 299.022940n 1.8
+ 299.042940n 0 300.979119n 0 300.999119n 1.8 302.983759n 1.8
+ 303.003759n 0 304.988400n 0 305.008400n 1.8 306.973702n 1.8
+ 306.993702n 0 308.959004n 0 308.979004n 1.8 310.991086n 1.8
+ 311.011086n 0 313.023167n 0 313.043167n 1.8 314.975033n 1.8
+ 314.995033n 0 316.926899n 0 316.946899n 1.8 318.897517n 1.8
+ 318.917517n 0 320.868136n 0 320.888136n 1.8 322.865344n 1.8
+ 322.885344n 0 324.862553n 0 324.882553n 1.8 326.850103n 1.8
+ 326.870103n 0 328.837653n 0 328.857653n 1.8 330.819800n 1.8
+ 330.839800n 0 332.801948n 0 332.821948n 1.8 334.825185n 1.8
+ 334.845185n 0 336.848422n 0 336.868422n 1.8 338.833197n 1.8
+ 338.853197n 0 340.817972n 0 340.837972n 1.8 342.818840n 1.8
+ 342.838840n 0 344.819709n 0 344.839709n 1.8 346.844666n 1.8
+ 346.864666n 0 348.869624n 0 348.889624n 1.8 350.853028n 1.8
+ 350.873028n 0 352.836432n 0 352.856432n 1.8 354.824888n 1.8
+ 354.844888n 0 356.813344n 0 356.833344n 1.8 358.790689n 1.8
+ 358.810689n 0 360.768035n 0 360.788035n 1.8 362.760676n 1.8
+ 362.780676n 0 364.753317n 0 364.773317n 1.8 366.785105n 1.8
+ 366.805105n 0 368.816893n 0 368.836893n 1.8 370.808777n 1.8
+ 370.828777n 0 372.800662n 0 372.820662n 1.8 374.787684n 1.8
+ 374.807684n 0 376.774707n 0 376.794707n 1.8 378.770259n 1.8
+ 378.790259n 0 380.765811n 0 380.785811n 1.8 382.797794n 1.8
+ 382.817794n 0 384.829776n 0 384.849776n 1.8 386.805480n 1.8
+ 386.825480n 0 388.781183n 0 388.801183n 1.8 390.791576n 1.8
+ 390.811576n 0 392.801968n 0 392.821968n 1.8 394.795911n 1.8
+ 394.815911n 0 396.789854n 0 396.809854n 1.8 398.798484n 1.8
+ 398.818484n 0 400.807115n 0 400.827115n 1.8 402.790414n 1.8
+ 402.810414n 0 404.773714n 0 404.793714n 1.8 406.793290n 1.8
+ 406.813290n 0 408.812866n 0 408.832866n 1.8 410.839272n 1.8
+ 410.859272n 0 412.865678n 0 412.885678n 1.8 414.840775n 1.8
+ 414.860775n 0 416.815872n 0 416.835872n 1.8 418.828691n 1.8
+ 418.848691n 0 420.841511n 0 420.861511n 1.8 422.799557n 1.8
+ 422.819557n 0 424.757604n 0 424.777604n 1.8 426.757201n 1.8
+ 426.777201n 0 428.756798n 0 428.776798n 1.8 430.741460n 1.8
+ 430.761460n 0 432.726122n 0 432.746122n 1.8 434.694399n 1.8
+ 434.714399n 0 436.662676n 0 436.682676n 1.8 438.672073n 1.8
+ 438.692073n 0 440.681471n 0 440.701471n 1.8 442.683817n 1.8
+ 442.703817n 0 444.686162n 0 444.706162n 1.8 446.701088n 1.8
+ 446.721088n 0 448.716014n 0 448.736014n 1.8 450.702949n 1.8
+ 450.722949n 0 452.689883n 0 452.709883n 1.8 454.692135n 1.8
+ 454.712135n 0 456.694387n 0 456.714387n 1.8 458.683217n 1.8
+ 458.703217n 0 460.672048n 0 460.692048n 1.8 462.691216n 1.8
+ 462.711216n 0 464.710384n 0 464.730384n 1.8 466.691278n 1.8
+ 466.711278n 0 468.672172n 0 468.692172n 1.8 470.661185n 1.8
+ 470.681185n 0 472.650197n 0 472.670197n 1.8 474.651301n 1.8
+ 474.671301n 0 476.652405n 0 476.672405n 1.8 478.639756n 1.8
+ 478.659756n 0 480.627107n 0 480.647107n 1.8 482.614409n 1.8
+ 482.634409n 0 484.601711n 0 484.621711n 1.8 486.604858n 1.8
+ 486.624858n 0 488.608005n 0 488.628005n 1.8 490.624160n 1.8
+ 490.644160n 0 492.640315n 0 492.660315n 1.8 494.642302n 1.8
+ 494.662302n 0 496.644289n 0 496.664289n 1.8 498.647062n 1.8
+ 498.667062n 0 500.649835n 0 500.669835n 1.8 502.646057n 1.8
+ 502.666057n 0 504.642279n 0 504.662279n 1.8 506.680393n 1.8
+ 506.700393n 0 508.718506n 0 508.738506n 1.8 510.729218n 1.8
+ 510.749218n 0 512.739929n 0 512.759929n 1.8 514.749579n 1.8
+ 514.769579n 0 516.759228n 0 516.779228n 1.8 518.778319n 1.8
+ 518.798319n 0 520.797411n 0 520.817411n 1.8 522.835334n 1.8
+ 522.855334n 0 524.873257n 0 524.893257n 1.8 526.872089n 1.8
+ 526.892089n 0 528.870922n 0 528.890922n 1.8 530.863835n 1.8
+ 530.883835n 0 532.856748n 0 532.876748n 1.8 534.876556n 1.8
+ 534.896556n 0 536.896364n 0 536.916364n 1.8 538.902310n 1.8
+ 538.922310n 0 540.908257n 0 540.928257n 1.8 542.932104n 1.8
+ 542.952104n 0 544.955952n 0 544.975952n 1.8 546.973785n 1.8
+ 546.993785n 0 548.991619n 0 549.011619n 1.8 550.962496n 1.8
+ 550.982496n 0 552.933372n 0 552.953372n 1.8 554.954826n 1.8
+ 554.974826n 0 556.976279n 0 556.996279n 1.8 558.997819n 1.8
+ 559.017819n 0 561.019359n 0 561.039359n 1.8 563.031562n 1.8
+ 563.051562n 0 565.043765n 0 565.063765n 1.8 567.035620n 1.8
+ 567.055620n 0 569.027474n 0 569.047474n 1.8 571.038728n 1.8
+ 571.058728n 0 573.049981n 0 573.069981n 1.8 575.062845n 1.8
+ 575.082845n 0 577.075709n 0 577.095709n 1.8 579.071325n 1.8
+ 579.091325n 0 581.066940n 0 581.086940n 1.8 583.076865n 1.8
+ 583.096865n 0 585.086790n 0 585.106790n 1.8 587.111024n 1.8
+ 587.131024n 0 589.135258n 0 589.155258n 1.8 591.172802n 1.8
+ 591.192802n 0 593.210346n 0 593.230346n 1.8 595.172387n 1.8
+ 595.192387n 0 597.134429n 0 597.154429n 1.8 599.117784n 1.8
+ 599.137784n 0 601.101139n 0 601.121139n 1.8 603.086769n 1.8
+ 603.106769n 0 605.072399n 0 605.092399n 1.8 607.072382n 1.8
+ 607.092382n 0 609.072365n 0 609.092365n 1.8 611.065906n 1.8
+ 611.085906n 0 613.059446n 0 613.079446n 1.8 615.084037n 1.8
+ 615.104037n 0 617.108627n 0 617.128627n 1.8 619.115290n 1.8
+ 619.135290n 0 621.121952n 0 621.141952n 1.8 623.104086n 1.8
+ 623.124086n 0 625.086219n 0 625.106219n 1.8 627.094862n 1.8
+ 627.114862n 0 629.103505n 0 629.123505n 1.8 631.126638n 1.8
+ 631.146638n 0 633.149771n 0 633.169771n 1.8 635.141663n 1.8
+ 635.161663n 0 637.133555n 0 637.153555n 1.8 639.124562n 1.8
+ 639.144562n 0 641.115569n 0 641.135569n 1.8 643.150697n 1.8
+ 643.170697n 0 645.185825n 0 645.205825n 1.8 647.214286n 1.8
+ 647.234286n 0 649.242747n 0 649.262747n 1.8 651.219697n 1.8
+ 651.239697n 0 653.196648n 0 653.216648n 1.8 655.220529n 1.8
+ 655.240529n 0 657.244409n 0 657.264409n 1.8 659.228965n 1.8
+ 659.248965n 0 661.213520n 0 661.233520n 1.8 663.234340n 1.8
+ 663.254340n 0 665.255161n 0 665.275161n 1.8 667.259236n 1.8
+ 667.279236n 0 669.263310n 0 669.283310n 1.8 671.269109n 1.8
+ 671.289109n 0 673.274907n 0 673.294907n 1.8 675.260100n 1.8
+ 675.280100n 0 677.245292n 0 677.265292n 1.8 679.231159n 1.8
+ 679.251159n 0 681.217026n 0 681.237026n 1.8 683.243739n 1.8
+ 683.263739n 0 685.270452n 0 685.290452n 1.8 687.230349n 1.8
+ 687.250349n 0 689.190245n 0 689.210245n 1.8 691.212522n 1.8
+ 691.232522n 0 693.234799n 0 693.254799n 1.8 695.223302n 1.8
+ 695.243302n 0 697.211805n 0 697.231805n 1.8 699.207708n 1.8
+ 699.227708n 0 701.203611n 0 701.223611n 1.8 703.165563n 1.8
+ 703.185563n 0 705.127516n 0 705.147516n 1.8 707.116199n 1.8
+ 707.136199n 0 709.104882n 0 709.124882n 1.8 711.096243n 1.8
+ 711.116243n 0 713.087604n 0 713.107604n 1.8 715.100071n 1.8
+ 715.120071n 0 717.112539n 0 717.132539n 1.8 719.106746n 1.8
+ 719.126746n 0 721.100954n 0 721.120954n 1.8 723.110341n 1.8
+ 723.130341n 0 725.119728n 0 725.139728n 1.8 727.105008n 1.8
+ 727.125008n 0 729.090288n 0 729.110288n 1.8 731.109526n 1.8
+ 731.129526n 0 733.128764n 0 733.148764n 1.8 735.126374n 1.8
+ 735.146374n 0 737.123984n 0 737.143984n 1.8 739.131396n 1.8
+ 739.151396n 0 741.138808n 0 741.158808n 1.8 743.157630n 1.8
+ 743.177630n 0 745.176453n 0 745.196453n 1.8 747.164657n 1.8
+ 747.184657n 0 749.152861n 0 749.172861n 1.8 751.145016n 1.8
+ 751.165016n 0 753.137172n 0 753.157172n 1.8 755.136050n 1.8
+ 755.156050n 0 757.134928n 0 757.154928n 1.8 759.148483n 1.8
+ 759.168483n 0 761.162038n 0 761.182038n 1.8 763.137911n 1.8
+ 763.157911n 0 765.113784n 0 765.133784n 1.8 767.116565n 1.8
+ 767.136565n 0 769.119347n 0 769.139347n 1.8 771.118072n 1.8
+ 771.138072n 0 773.116798n 0 773.136798n 1.8 775.109628n 1.8
+ 775.129628n 0 777.102458n 0 777.122458n 1.8 779.115932n 1.8
+ 779.135932n 0 781.129406n 0 781.149406n 1.8 783.159285n 1.8
+ 783.179285n 0 785.189165n 0 785.209165n 1.8 787.192671n 1.8
+ 787.212671n 0 789.196178n 0 789.216178n 1.8 791.145947n 1.8
+ 791.165947n 0 793.095715n 0 793.115715n 1.8 795.103039n 1.8
+ 795.123039n 0 797.110363n 0 797.130363n 1.8 799.129178n 1.8
+ 799.149178n 0 801.147994n 0 801.167994n 1.8 803.172611n 1.8
+ 803.192611n 0 805.197227n 0 805.217227n 1.8 807.169751n 1.8
+ 807.189751n 0 809.142275n 0 809.162275n 1.8 811.149996n 1.8
+ 811.169996n 0 813.157716n 0 813.177716n 1.8 815.145163n 1.8
+ 815.165163n 0 817.132609n 0 817.152609n 1.8 819.147736n 1.8
+ 819.167736n 0 821.162864n 0 821.182864n 1.8 823.139592n 1.8
+ 823.159592n 0 825.116321n 0 825.136321n 1.8 827.116631n 1.8
+ 827.136631n 0 829.116942n 0 829.136942n 1.8 831.106341n 1.8
+ 831.126341n 0 833.095740n 0 833.115740n 1.8 835.052969n 1.8
+ 835.072969n 0 837.010198n 0 837.030198n 1.8 838.961997n 1.8
+ 838.981997n 0 840.913796n 0 840.933796n 1.8 842.900139n 1.8
+ 842.920139n 0 844.886481n 0 844.906481n 1.8 846.906242n 1.8
+ 846.926242n 0 848.926002n 0 848.946002n 1.8 850.923883n 1.8
+ 850.943883n 0 852.921765n 0 852.941765n 1.8 854.938887n 1.8
+ 854.958887n 0 856.956009n 0 856.976009n 1.8 858.937200n 1.8
+ 858.957200n 0 860.918391n 0 860.938391n 1.8 862.899908n 1.8
+ 862.919908n 0 864.881424n 0 864.901424n 1.8 866.879657n 1.8
+ 866.899657n 0 868.877890n 0 868.897890n 1.8 870.863727n 1.8
+ 870.883727n 0 872.849563n 0 872.869563n 1.8 874.876385n 1.8
+ 874.896385n 0 876.903207n 0 876.923207n 1.8 878.924379n 1.8
+ 878.944379n 0 880.945551n 0 880.965551n 1.8 882.964961n 1.8
+ 882.984961n 0 884.984370n 0 885.004370n 1.8 886.956997n 1.8
+ 886.976997n 0 888.929624n 0 888.949624n 1.8 890.957034n 1.8
+ 890.977034n 0 892.984444n 0 893.004444n 1.8 894.970302n 1.8
+ 894.990302n 0 896.956161n 0 896.976161n 1.8 898.969453n 1.8
+ 898.989453n 0 900.982744n 0 901.002744n 1.8 902.984194n 1.8
+ 903.004194n 0 904.985644n 0 905.005644n 1.8 906.999323n 1.8
+ 907.019323n 0 909.013001n 0 909.033001n 1.8 911.010908n 1.8
+ 911.030908n 0 913.008814n 0 913.028814n 1.8 915.008734n 1.8
+ 915.028734n 0 917.008654n 0 917.028654n 1.8 919.019758n 1.8
+ 919.039758n 0 921.030861n 0 921.050861n 1.8 923.004109n 1.8
+ 923.024109n 0 924.977357n 0 924.997357n 1.8 926.951517n 1.8
+ 926.971517n 0 928.925676n 0 928.945676n 1.8 930.924670n 1.8
+ 930.944670n 0 932.923663n 0 932.943663n 1.8 934.901066n 1.8
+ 934.921066n 0 936.878468n 0 936.898468n 1.8 938.879903n 1.8
+ 938.899903n 0 940.881337n 0 940.901337n 1.8 942.854532n 1.8
+ 942.874532n 0 944.827727n 0 944.847727n 1.8 946.841006n 1.8
+ 946.861006n 0 948.854284n 0 948.874284n 1.8 950.872460n 1.8
+ 950.892460n 0 952.890636n 0 952.910636n 1.8 954.893430n 1.8
+ 954.913430n 0 956.896224n 0 956.916224n 1.8 958.887533n 1.8
+ 958.907533n 0 960.878842n 0 960.898842n 1.8 962.881470n 1.8
+ 962.901470n 0 964.884097n 0 964.904097n 1.8 966.870288n 1.8
+ 966.890288n 0 968.856480n 0 968.876480n 1.8 970.848702n 1.8
+ 970.868702n 0 972.840924n 0 972.860924n 1.8 974.840760n 1.8
+ 974.860760n 0 976.840596n 0 976.860596n 1.8 978.829085n 1.8
+ 978.849085n 0 980.817575n 0 980.837575n 1.8 982.809325n 1.8
+ 982.829325n 0 984.801076n 0 984.821076n 1.8 986.804020n 1.8
+ 986.824020n 0 988.806964n 0 988.826964n 1.8 990.770113n 1.8
+ 990.790113n 0 992.733261n 0 992.753261n 1.8 994.699279n 1.8
+ 994.719279n 0 996.665297n 0 996.685297n 1.8 998.673632n 1.8
+ 998.693632n 0 1000.681966n 0 1000.701966n 1.8 1002.664366n 1.8
+ 1002.684366n 0 1004.646766n 0 1004.666766n 1.8 1006.644417n 1.8
+ 1006.664417n 0 1008.642068n 0 1008.662068n 1.8 1010.624500n 1.8
+ 1010.644500n 0 1012.606932n 0 1012.626932n 1.8 1014.603604n 1.8
+ 1014.623604n 0 1016.600276n 0 1016.620276n 1.8 1018.586188n 1.8
+ 1018.606188n 0 1020.572101n 0 1020.592101n 1.8 1022.571631n 1.8
+ 1022.591631n 0 1024.571161n 0 1024.591161n 1.8 1026.580274n 1.8
+ 1026.600274n 0 1028.589387n 0 1028.609387n 1.8 1030.571768n 1.8
+ 1030.591768n 0 1032.554149n 0 1032.574149n 1.8 1034.536808n 1.8
+ 1034.556808n 0 1036.519466n 0 1036.539466n 1.8 1038.492033n 1.8
+ 1038.512033n 0 1040.464600n 0 1040.484600n 1.8 1042.497825n 1.8
+ 1042.517825n 0 1044.531050n 0 1044.551050n 1.8 1046.578248n 1.8
+ 1046.598248n 0 1048.625447n 0 1048.645447n 1.8 1050.593321n 1.8
+ 1050.613321n 0 1052.561195n 0 1052.581195n 1.8 1054.569829n 1.8
+ 1054.589829n 0 1056.578463n 0 1056.598463n 1.8 1058.640540n 1.8
+ 1058.660540n 0 1060.702616n 0 1060.722616n 1.8 1062.683309n 1.8
+ 1062.703309n 0 1064.664002n 0 1064.684002n 1.8 1066.669813n 1.8
+ 1066.689813n 0 1068.675624n 0 1068.695624n 1.8 1070.695758n 1.8
+ 1070.715758n 0 1072.715892n 0 1072.735892n 1.8 1074.734219n 1.8
+ 1074.754219n 0 1076.752547n 0 1076.772547n 1.8 1078.766731n 1.8
+ 1078.786731n 0 1080.780915n 0 1080.800915n 1.8 1082.774341n 1.8
+ 1082.794341n 0 1084.767768n 0 1084.787768n 1.8 1086.760219n 1.8
+ 1086.780219n 0 1088.752671n 0 1088.772671n 1.8 1090.773715n 1.8
+ 1090.793715n 0 1092.794759n 0 1092.814759n 1.8 1094.753171n 1.8
+ 1094.773171n 0 1096.711582n 0 1096.731582n 1.8 1098.695574n 1.8
+ 1098.715574n 0 1100.679566n 0 1100.699566n 1.8 1102.672703n 1.8
+ 1102.692703n 0 1104.665840n 0 1104.685840n 1.8 1106.656460n 1.8
+ 1106.676460n 0 1108.647079n 0 1108.667079n 1.8 1110.638018n 1.8
+ 1110.658018n 0 1112.628957n 0 1112.648957n 1.8 1114.612688n 1.8
+ 1114.632688n 0 1116.596418n 0 1116.616418n 1.8 1118.591986n 1.8
+ 1118.611986n 0 1120.587553n 0 1120.607553n 1.8 1122.590359n 1.8
+ 1122.610359n 0 1124.593165n 0 1124.613165n 1.8 1126.555094n 1.8
+ 1126.575094n 0 1128.517023n 0 1128.537023n 1.8 1130.505999n 1.8
+ 1130.525999n 0 1132.494974n 0 1132.514974n 1.8 1134.499227n 1.8
+ 1134.519227n 0 1136.503481n 0 1136.523481n 1.8 1138.517379n 1.8
+ 1138.537379n 0 1140.531277n 0 1140.551277n 1.8 1142.565004n 1.8
+ 1142.585004n 0 1144.598731n 0 1144.618731n 1.8 1146.616337n 1.8
+ 1146.636337n 0 1148.633943n 0 1148.653943n 1.8 1150.636576n 1.8
+ 1150.656576n 0 1152.639209n 0 1152.659209n 1.8 1154.634257n 1.8
+ 1154.654257n 0 1156.629305n 0 1156.649305n 1.8 1158.638948n 1.8
+ 1158.658948n 0 1160.648591n 0 1160.668591n 1.8 1162.644341n 1.8
+ 1162.664341n 0 1164.640091n 0 1164.660091n 1.8 1166.659902n 1.8
+ 1166.679902n 0 1168.679713n 0 1168.699713n 1.8 1170.716487n 1.8
+ 1170.736487n 0 1172.753262n 0 1172.773262n 1.8 1174.749014n 1.8
+ 1174.769014n 0 1176.744766n 0 1176.764766n 1.8 1178.723224n 1.8
+ 1178.743224n 0 1180.701681n 0 1180.721681n 1.8 1182.663582n 1.8
+ 1182.683582n 0 1184.625484n 0 1184.645484n 1.8 1186.605945n 1.8
+ 1186.625945n 0 1188.586407n 0 1188.606407n 1.8 1190.598741n 1.8
+ 1190.618741n 0 1192.611075n 0 1192.631075n 1.8 1194.587215n 1.8
+ 1194.607215n 0 1196.563354n 0 1196.583354n 1.8 1198.556677n 1.8
+ 1198.576677n 0 1200.550000n 0 1200.570000n 1.8 1202.547600n 1.8
+ 1202.567600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
